US05580946
4-methoxy-1,3-phenylene diisocyanate;
4-chloro-1,3-phenylene diisocyanate; 4-bromo-1,3-phenylene diisocyanate;

reactant | 4-chloro-1,3-phenylene diisocyanate | ClC1=C(C=C(C=C1)N=C=O)N=C=O | C8H3ClN2O2
reactant | 4-bromo-1,3-phenylene diisocyanate | BrC1=C(C=C(C=C1)N=C=O)N=C=O | C8H3BrN2O2
product | 4-methoxy-1,3-phenylene diisocyanate | COC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O3
